US07786040B2
4-Cyclopropyl-1,2,3-thiadiazolecarboxylic acid (0.5 g; 2.9 mmols), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (0.62 g; 3.2 mmols) and 2-cyanoaniline (0.38 g; 3.2 mmols) were dissolved or suspended in THF (15 ml), followed by stirring at room temperature for 10 hours. Subsequently, water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with successively a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution. After drying over anhydrous magnesium sulfate, the solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to thereby obtain 0.53 g of 2′-cyano-4-cyclopropyl-1,2,3-thiadiazole-5-carboxanilide.

reactant | 4-Cyclopropyl-1,2,3-thiadiazolecarboxylic acid | 2.9 mmols, 0.5 g | C1(CC1)C1(N=NSC1)C(=O)O | C6H8N2O2S
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 3.2 mmols, 0.62 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-cyanoaniline | 3.2 mmols, 0.38 g | C(#N)C1=C(N)C=CC=C1 | C7H6N2
reactant | water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2′-cyano-4-cyclopropyl-1,2,3-thiadiazole-5-carboxanilide | 0.53 g, Yield: 68% | C(#N)C1=C(NC(=O)C2=C(N=NS2)C2CC2)C=CC=C1 | C13H10N4OS
